US07115611B2
A] In analogy to the procedures described in example 26B] and 26C], methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amine (example 123D]) was reacted with 3-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-methoxy-benzoic acid (prepared from 3-hydroxy-5-methoxy-benzaldehyde [Journal of Organic Chemistry (1985), 50(13), 2236–40], by reaction with ethyl-bromoisobutyrate followed by oxidation with sodium chlorite in analogy to the procedures described in examples 52A] and 59A]) to give 2-(3-methoxy-5-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-carbamoyl}-phenoxy)-2-methyl-propionic acid ethyl ester, which was subsequently saponified to yield the title compound as colorless solid.

reactant | methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-amine | CNCC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C | C15H15F3N2
reactant | 3-(1-ethoxycarbonyl-1-methyl-ethoxy)-5-methoxy-benzoic acid | C(C)OC(=O)C(C)(OC=1C=C(C(=O)O)C=C(C1)OC)C | C14H18O6
reactant | 3-hydroxy-5-methoxy-benzaldehyde | OC=1C=C(C=O)C=C(C1)OC | C8H8O3
reactant | ethyl-bromoisobutyrate | C(C)CC(C(=O)[O-])(C)Br
reactant | sodium chlorite | Cl(=O)[O-].[Na+]
product | 2-(3-methoxy-5-{methyl-[2-methyl-6-(4-trifluoromethyl-phenyl)-pyridin-3-ylmethyl]-carbamoyl}-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC(=C1)C(N(CC=1C(=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F)C)C)=O)OC)=O | C29H31F3N2O5
